US04788206
As described in Example 99, (E,E)-5-(4-methoxyphenyl)-2,4-heptadienoic acid methyl ester (8 g) was saponified in a refluxing mixture of methanol (30 mL) and 2N NaOH (30 mL). After 2.5 hours the reaction was worked up in the usual way and the acid crystallized from 2-propanol-hexane to give 5.4 g of (E,E)-5-(4-methoxyphenyl)-2,4-heptadienoic acid, mp 135.5°-137° C.

reactant | (E,E)-5-(4-methoxyphenyl)-2,4-heptadienoic acid methyl ester | 8 g | COC(\C=C\C=C(/CC)\C1=CC=C(C=C1)OC)=O | C15H18O3
reactant | NaOH | 2N, 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (E,E)-5-(4-methoxyphenyl)-2,4-heptadienoic acid | 5.4 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/CC | C14H16O3
